US05064844
A mixture of 2,6-dichloro-4-trifluoromethylphenylhydrazine (34 g), 2-oxopropanedial 1,3-dioxime (17 g) and ethanol (300 ml) was heated under reflux for 31/2 hours. The solvent was evaporated under reduced pressure and the residue triturated with light petroleum (bp 40°-60°) and filtered to give 2-oxopropanedial 2-(2,6-dichloro-4-trifluoromethylphenylhydrazone) 1,3-dioxime. This product (36 g) was stirred in acetic anhydride (350 ml) and acetic acid (220 ml) at room temperature for 45 mins. The mixture was poured into water and filtered and the residue dried in vacuo at 40° to give 2-oxopropanedial 1-acetyloxime 2-(2,6-dichloro-4-trifluoromethylphenylhydrazone) 3-oxime.

reactant | 2,6-dichloro-4-trifluoromethylphenylhydrazine | 34 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN | C7H5Cl2F3N2
reactant | 2-oxopropanedial 1,3-dioxime | 17 g | O=C(C=NO)C=NO | C3H4N2O3
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-oxopropanedial 2-(2,6-dichloro-4-trifluoromethylphenylhydrazone) 1,3-dioxime | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN=C(C=NO)C=NO | C10H7Cl2F3N4O2
